US07012121B2
3-(1-naphthalenyl)-2-propenal
To a stirred solution of 3-(1-naphthalenyl)-2-propenoyl chloride (2.5 g, 0.012 mol) and 6.03 g (0.023 mol) of triphenyl phosphine in 50 ml of acetone was added 7.65 g (0.013 mol) of bis(triphenylphosphine)tetrahydroboratocopper in one portion. After an hour the solution was filtered and the filtrate was evaporated to dryness. The residue was dissolved in 20 ml of chloroform and treated with 6 g of cuprous chloride, allowed to stir for an hour and filtered. The solvent was evaporated to dryness to yield 1.66 g (79 percent) of solid.

reactant | 3-(1-naphthalenyl)-2-propenoyl chloride | 0.012 mol, 2.5 g | C1(=CC=CC2=CC=CC=C12)C=CC(=O)Cl | C13H9ClO
reactant | triphenyl phosphine | 0.023 mol, 6.03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-(1-naphthalenyl)-2-propenal | 1.66 g, 79 percent | C1(=CC=CC2=CC=CC=C12)C=CC=O | C13H10O
